US05998433
a) Synthesis of 6-(4-phenylbenzoyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine
To a solution of 0.160 g (1.000 mmol) of 4,5,6,7-tetrahydrofuro[2,3-c]pyridine hydrochloride and 0.55 ml (4.0 mmol) of triethylamine in 30 ml of dichloromethane, 0.26 g (1.2 mmol) of 4-biphenylcarbonyl chloride was added under ice-cooling, followed by overnight stirring at room temperature. The reaction mixture was poured into water and extracted with dichloromethane 2 times. The combined organic layer was washed with water and dried over anhydrous sodium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (hexane/ethyl acetate=4/1) to yield the desired product.

reactant | 4,5,6,7-tetrahydrofuro[2,3-c]pyridine hydrochloride | 1.000 mmol, 0.160 g | Cl.O1C=CC2=C1CNCC2
reactant | triethylamine | 4.0 mmol, 0.55 ml | C(C)N(CC)CC | C6H15N
reactant | 4-biphenylcarbonyl chloride | 1.2 mmol, 0.26 g | C1(=CC=C(C=C1)C(=O)Cl)C1=CC=CC=C1 | C13H9ClO
reactant | water | O | H2O
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 6-(4-phenylbenzoyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine | C1(=CC=CC=C1)C1=CC=C(C(=O)N2CC3=C(CC2)C=CO3)C=C1 | C20H17NO2
